US05214037
To a solution of 7β-amino-3-(1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester (550 mg : 1.08 mMol.) and difluoromethylthioacetic acid (160 mg : 1.13 mMol.) in dichloromethane (8 ml) cooling at -30° C. are added N-methylmorpholine (0.27 ml : 2.46 mMol.) and phenyl dichlorophosphate (0.19 ml : 1.27 mMol.), and the mixture is stirred at -30° C. for 1 hour. The reaction mixture is mixed with 10% hydrochloric acid (1 ml), diluted with water, and extracted with ethyl acetate. The extract is washed with aqueous saline, dried over sodium sulfate, and concentrated. The residue is purified by silica gel column chromatography (toluene : ethyl acetate=1:1) to give 7β-difluoromethylthioacetamido-3-(1,2,3-triazol-4-ylthiomethyl- thio) -3-cephem-4-carboxylic acid diphenylmethyl ester (475 mg) as pale yellow foam. Yield : 69%.

reactant | 7β-amino-3-(1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 1.08 mMol, 550 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SCSC=2N=NNC2 | C23H21N5O3S3
reactant | difluoromethylthioacetic acid | 1.13 mMol, 160 mg | FC(F)CC(=S)O | C3H4F2OS
reactant | N-methylmorpholine | 2.46 mMol, 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 1.27 mMol, 0.19 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7β-difluoromethylthioacetamido-3-(1,2,3-triazol-4-ylthiomethyl- thio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 475 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC(F)F)=S)=O)SCSC=2N=NNC2 | C26H23F2N5O3S4
